US07943629B2
2-(5-Bromo-2-chloropyrimidin-4-ylamino)ethanol
In analogy to compound 1.1, a solution of 0.34 g (1.49 mmol) of 5-bromo-2,4-dichloropyrimidine in 5 ml of acetonitrile is reacted with 0.1 ml (1.61 mmol) of ethanolamine in the presence of 0.25 ml (1.81 mmol) of triethylamine. Recrystallization from hexane/ethyl acetate 7/3 results in 0.28 g (74% of theory) of the product.

reactant | 5-bromo-2,4-dichloropyrimidine | 1.49 mmol, 0.34 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | ethanolamine | 1.61 mmol, 0.1 ml | C(O)CN | C2H7NO
reactant | triethylamine | 1.81 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(5-Bromo-2-chloropyrimidin-4-ylamino)ethanol | BrC=1C(=NC(=NC1)Cl)NCCO | C6H7BrClN3O
